US05656642
136 ml of formic acid was added to 210 g of 4-(2-phenylethylamino)-1-benzylpiperidine. Since the temperature of the mixture increased to about 90° C., the mixture was ice-cooled. To the reaction mixture was added 64 ml of 37% formalin at 50°-60° C.; the ice bath was removed; and the mixture was stirred for 1 hour. To the resulting reaction mixture were added 1 liter of ethanol and 120 ml of concentrated hydrochloric acid, followed by concentration under reduced pressure. To the residue was added 1 liter of ethanol. The resulting insolubles were collected by filtration and then washed with ethanol to obtain 251.7 g of 4-[N-methyl-N-(2-phenylethyl)amino]-1-benzylpiperidine dihydrochloride as a white powder.

reactant | formic acid | 136 ml | C(=O)O | CH2O2
reactant | 4-(2-phenylethylamino)-1-benzylpiperidine | 210 g | C1(=CC=CC=C1)CCNC1CCN(CC1)CC1=CC=CC=C1 | C20H26N2
reactant | formalin | 64 ml | C=O | CH2O
reactant | hydrochloric acid | 120 ml | Cl | ClH
solvent | ethanol | 1 liter | C(C)O | C2H6O
product | 4-[N-methyl-N-(2-phenylethyl)amino]-1-benzylpiperidine dihydrochloride | 251.7 g | Cl.Cl.CN(CCC1=CC=CC=C1)C1CCN(CC1)CC1=CC=CC=C1 | InChI=1S/C21H28N2.2ClH/c1-22(15-12-19-8-4-2-5-9-19)21-13-16-23(17-14-21)18-20-10-6-3-7-11-20;;/h2-11,21H,12-18H2,1H3;2*1H
